US08835426B2
To a solution of admantane-1-carboxamide (2 g, 11.17 mmol) in THF (50 mL) was added BH3.Me2S (10.2 M, 3.4 mL, 34.7 mmol) under nitrogen. The mixture was heated at reflux overnight. The solution was cooled to rt. Methanol (20 mL) was added to the solution. The mixture was concentrated under vacuum to give crude product, which was purified by chromatography on silica gel to afford (1-adamantyl)methylamine (1.09 g, 59%). 1H NMR (CDCl3, 400 MHz): δ=1.44-1.96 (m, 15H), 2.30 (s, 2H).

reactant | admantane-1-carboxamide | 11.17 mmol, 2 g | C12(CC3CC(CC(C1)C3)C2)C(=O)N | C11H17NO
reactant | Me2S | 34.7 mmol, 10.2 M, 3.4 mL | S(C)C | C2H6S
reactant | Methanol | 20 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (1-adamantyl)methylamine | 1.09 g, 59% | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
